US05753664
3-Methyl-2-[4-[4-(4-phenylpiperazinylmethyl)-benzoyl]benzylthio]-4H-pyrido[1,2-a]pyrimidin-4-one
A solution of 2-mercapto-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one (298 mg), 4,4'-bis(bromomethyl)benzophenone (934 mg), phenylpiperazine hydrochloride (402 mg) and potassium carbonate (850 mg) in DMF (30 ml) was stirred at room temperature for 10 hours. This reaction mixture was concentrated and the residue was dissolved in chloroform, washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate =1:1) to provide the title compound as colorless solid (146 mg).

reactant | 2-mercapto-3-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 298 mg | SC=1N=C2N(C(C1C)=O)C=CC=C2 | C9H8N2OS
reactant | 4,4'-bis(bromomethyl)benzophenone | 934 mg | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)CBr)C=C1 | C15H12Br2O
reactant | phenylpiperazine hydrochloride | 402 mg | Cl.C1(=CC=CC=C1)N1CCNCC1
reactant | potassium carbonate | 850 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-Methyl-2-[4-[4-(4-phenylpiperazinylmethyl)-benzoyl]benzylthio]-4H-pyrido[1,2-a]pyrimidin-4-one | 146 mg | CC1=C(N=C2N(C1=O)C=CC=C2)SCC2=CC=C(C=C2)C(C2=CC=C(C=C2)CN2CCN(CC2)C2=CC=CC=C2)=O | C34H32N4O2S
